US04723016
The procedure of Example 1 was followed using methyl heptanoate (5 mL, 30.2 mmol), lithium trimethylsilanolate (2.90 g, 30.2 mmol), dry toluene (50 mL) and 2.5 h of heating at reflux. Lithium heptanoate (2.1 g, 51% yield) was isolated as a white solid: 1H NMR (D2O) δ 0.7 (t, J=5.3 Hz, CH3, 3H), 0.9-1.7 (m, CH2, 8H), 2.1 ppm (t, --CH2CO2-Li+, J=7.2 Hz, 2H). Anal. Calcd. for C7H13LiO2 : C, 61.77; H, 9.63; Li, 5.10. Found: C, 59.84, 59.89; H, 9.47, 9.47; Li, 5.01.

reactant | methyl heptanoate | 30.2 mmol, 5 mL | C(CCCCCC)(=O)OC | C8H16O2
reactant | lithium trimethylsilanolate | 30.2 mmol, 2.90 g | C[Si]([O-])(C)C.[Li+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Lithium heptanoate | 2.1 g, 51% yield | C(CCCCCC)(=O)[O-].[Li+] | InChI=1S/C7H14O2.Li/c1-2-3-4-5-6-7(8)9;/h2-6H2,1H3,(H,8,9);/q;+1/p-1
